US04470986
A solution of 6-aminomethyl-3-benzyloxy-2-methylpyridine (6.31 g) in 8.7 ml of formic acid is heated at 90° for 15 hours. The reaction mixture is cooled, made basic with ice-cold ammonium hydroxide solution and extracted with chloroform. (3×25 ml). The chloroform extract is dried over sodium sulfate and evaporated. Recrystallization from ether yields 3-benzyloxy-6-formylaminomethyl-2-methylpyridine, m.p. 67°-68°.

reactant | 6-aminomethyl-3-benzyloxy-2-methylpyridine | 6.31 g | NCC1=CC=C(C(=N1)C)OCC1=CC=CC=C1 | C14H16N2O
reactant | formic acid | 8.7 ml | C(=O)O | CH2O2
product | 3-benzyloxy-6-formylaminomethyl-2-methylpyridine | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)CNC=O)C | C15H16N2O2
